US06313122B1
Preparation of 2-(4-tert-Butylbenzoylamino)-4-acetamido-N-(4-methoxyphenyl)benzamide
Using the procedure described in Example 59, Part E, 2-(4-tert-butylbenzoylamino)-4-amino-N-(4-methoxyphenyl)benzamide (100 mg, 0.25 mmol) was reacted with acetyl chloride to yield 82 mg (72%) of the title compound.

reactant | 2-(4-tert-butylbenzoylamino)-4-amino-N-(4-methoxyphenyl)benzamide | 0.25 mmol, 100 mg | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC(=C2)N)C=C1 | C25H27N3O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 2-(4-tert-Butylbenzoylamino)-4-acetamido-N-(4-methoxyphenyl)benzamide | 82 mg, 72% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC(=C2)NC(C)=O)C=C1 | C27H29N3O4
